US05670503
To a mixture of 7-(4-fluorophenyl)-2-isobutyl-8-(pyridin-4-yl)-1,2,3,4-tetrahydropyrazolo[5,1-c][1,2,4]triazine (70 mg, 0.199 mmol) and pyridine (31 mg, 0.398 mmol) in N-methyl-2-pyrrolidone (1.2 ml) was added acetyl chloride (19 mg, 0.239 mmol) in N-methyl-2-pyrrolidone (0.3 ml) at ambient temperature. The reaction mixture was stirred for 1 hour, then aqueous saturated sodium bicarbonate and ethyl acetate were added thereto. The organic phase was separated, and washed with water, brine, and dried over sodium sulfate. The solvent was evaporated, and the obtained residue was purified by column chromatography on silica gel (eluent:dichloromethane/methanol; 100/1~40/1). The fractions containing the object compound were concentrated in vacuo and the obtained oil was crystallized from diisopropyl ether to give 1-acetyl-7-(4-fluorophenyl)-2-isobutyl-8-(pyridin-4-yl)-1,2,3,4-tetrahydropyrazolo-[5,1-c][1,2,4]triazine (57.0 mg).

reactant | 7-(4-fluorophenyl)-2-isobutyl-8-(pyridin-4-yl)-1,2,3,4-tetrahydropyrazolo[5,1-c][1,2,4]triazine | 0.199 mmol, 70 mg | FC1=CC=C(C=C1)C1=NN2C(NN(CC2)CC(C)C)=C1C1=CC=NC=C1 | C20H22FN5
reactant | pyridine | 0.398 mmol, 31 mg | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 0.239 mmol, 19 mg | C(C)(=O)Cl | C2H3ClO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N-methyl-2-pyrrolidone | 1.2 ml | CN1C(CCC1)=O | C5H9NO
solvent | N-methyl-2-pyrrolidone | 0.3 ml | CN1C(CCC1)=O | C5H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-acetyl-7-(4-fluorophenyl)-2-isobutyl-8-(pyridin-4-yl)-1,2,3,4-tetrahydropyrazolo-[5,1-c][1,2,4]triazine | 57.0 mg | C(C)(=O)N1N(CCN2C1=C(C(=N2)C2=CC=C(C=C2)F)C2=CC=NC=C2)CC(C)C | C22H24FN5O
